US09428509B2
6-(2-Chloro-4-((tetrahydrofuran-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole
To a suspension of sodium hydride (1.2 equiv, 60% by weight in mineral oil) in THF (0.3 M) under nitrogen atmosphere was added tetrahydrofuran-3-ol (1.5 equiv) in THF (0.6 M) at 0° C. The resulting reaction mixture was stirred at 0° C. for 20 min. A solution of 6-(2,4-dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv) in THF (0.6 M) was added and the resulting reaction mixture was stirred at room temperature for 3 h. The reaction mixture was quenched with saturated aqueous ammonium chloride solution (0.6 M) and the organic solvents were removed under reduced pressure. The resulting residue was diluted with water and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated under reduced pressure and the crude product was purified by silica gel chromatography (15% ethyl acetate in petroleum ether) to afford the title compound (83% yield). MS (ESI) m/z 501.1 [M+H]+.

reactant | sodium hydride | 1.2 equiv | [H-].[Na+]
reactant | tetrahydrofuran-3-ol | 1.5 equiv | O1CC(CC1)O | C4H8O2
reactant | 6-(2,4-dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)Cl | C20H22Cl2N4O2Si
solvent | THF | 0.3 M | C1CCOC1 | C4H8O
solvent | THF | 0.6 M | C1CCOC1 | C4H8O
solvent | THF | 0.6 M | C1CCOC1 | C4H8O
product | 6-(2-Chloro-4-((tetrahydrofuran-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 83% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2COCC2 | C24H29ClN4O4Si
